US09428509B2
3-Methoxy-4-((5-(2-methylbenzo[d]oxazol-6-yl)-4-(1-methylcyclobutoxy)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)-N-(oxetan-3-yl)benzamide
A mixture of 3-methoxy-4-((5-(2-methylbenzo[d]oxazol-6-yl)-4-(1-methylcyclobutoxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)-N-(oxetan-3-yl)benzamide (1 equiv) in THF (0.1 M) in a sealed tube was added a solution of tetrabutylammonium fluoride in THF (1 M, 10 equiv). The resulting mixture was heated at 90° C. for 16 h. The reaction mixture was cooled to room temperature and concentrated. The residue was purified to afford the title compound (17% yield over two steps). 1H NMR (400 MHz, DMSO-d6) δ ppm 11.82 (s, 1H), 8.97 (d, J=6.4 Hz, 1H), 8.58 (d, J=8.0 Hz, 1H), 7.97 (d, J=0.8 Hz, 1H), 7.68-7.54 (m, 5H), 7.38 (d, J=2.4 Hz, 1H), 5.06-5.00 (m, 1H), 4.79 (t, J=7.0 Hz, 2H), 4.62 (t, J=6.4 Hz, 2H), 3.98 (s, 3H), 2.62 (s, 3H), 2.49-2.43 (m, 2H), 2.32-2.27 (m, 2H), 1.87-1.78 (m, 2H), 1.75 (s, 3H). MS (ESI) m/z 555.3 [M+H]+.

reactant | 3-methoxy-4-((5-(2-methylbenzo[d]oxazol-6-yl)-4-(1-methylcyclobutoxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)-N-(oxetan-3-yl)benzamide | 1 equiv | COC=1C=C(C(=O)NC2COC2)C=CC1NC=1N=C(C2=C(N1)N(C=C2C2=CC1=C(N=C(O1)C)C=C2)COCC[Si](C)(C)C)OC2(CCC2)C | C36H44N6O6Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 0.1 M | C1CCOC1 | C4H8O
solvent | THF | 1 M, 10 equiv | C1CCOC1 | C4H8O
product | 3-Methoxy-4-((5-(2-methylbenzo[d]oxazol-6-yl)-4-(1-methylcyclobutoxy)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)-N-(oxetan-3-yl)benzamide | 17% yield | COC=1C=C(C(=O)NC2COC2)C=CC1NC=1N=C(C2=C(N1)NC=C2C2=CC1=C(N=C(O1)C)C=C2)OC2(CCC2)C | C30H30N6O5
